US05739345
2-Hydroxymethyl-3-methyl-5-phenylthioimidazo[5,4-b]pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 2.62 g of 3-amino-2-methylamino-6-phenylthiopyridine (prepared as described in Preparation 89) and 2.58 g of glycolic acid were used, and that the product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and methanol in ratios ranging from 50:1 to 10:1 by volume as the eluent, to give 1.80 g of the title compound, melting at 119°-120° C.

reactant | 3-amino-2-methylamino-6-phenylthiopyridine | 2.62 g | NC=1C(=NC(=CC1)SC1=CC=CC=C1)NC | C12H13N3S
reactant | glycolic acid | 2.58 g | C(CO)(=O)O | C2H4O3
product | 2-Hydroxymethyl-3-methyl-5-phenylthioimidazo[5,4-b]pyridine | 1.80 g | OCC=1N(C2=NC(=CC=C2N1)SC1=CC=CC=C1)C | C14H13N3OS
